US04027026
(a) A solution of 2-hydroxymethyl pyridine (5.45 g.) and cysteamine hydrochloride (6.2 g.) in aqueous hydrobromic acid (110 ml., 48%) was heated under reflux overnight. After cooling, the solution was evaporated to dryness and the residual solid washed with ethanol/ether and recrystallised from aqueous ethanol to give 2-[(2-aminoethyl)thiomethyl]pyridine dihydrobromide m.p. 191°-193°.

reactant | 2-hydroxymethyl pyridine | 5.45 g | OCC1=NC=CC=C1 | C6H7NO
reactant | cysteamine hydrochloride | 6.2 g | Cl.NCCS
reactant | hydrobromic acid | 110 ml | Br | BrH
product | 2-[(2-aminoethyl)thiomethyl]pyridine dihydrobromide | Br.Br.NCCSCC1=NC=CC=C1 | InChI=1S/C8H12N2S.2BrH/c9-4-6-11-7-8-3-1-2-5-10-8;;/h1-3,5H,4,6-7,9H2;2*1H
